US04015007
An amount of 128.7 g (0.69 mole) of 2-cyano-bicyclo[2.2.2]oct-5-ene-2-propionitrile is dissolved in 1.3 liters of the purest methanol; an addition is then made of 3 g of palladium charcoal (5% Pd) and hydrogenation performed at 15°-25° under normal pressure to effect a hydrogen absorption of 90% of theory. After removal by filtration of the catalyst, the solvent is evaporated off and the residue fractionated to obtain 2-cyano-bicyclo[2.2.2]octane-2-propionitrile, B.P. 114°-116°/0.01 Torr.

reactant | 2-cyano-bicyclo[2.2.2]oct-5-ene-2-propionitrile | 0.69 mole, 128.7 g | C(#N)C1(C2C=CC(C1)CC2)CCC#N | C12H14N2
solvent | methanol | 1.3 liters | CO | CH4O
catalyst | palladium charcoal | 3 g | [Pd] | Pd
product | 2-cyano-bicyclo[2.2.2]octane-2-propionitrile | C(#N)C1(C2CCC(C1)CC2)CCC#N | C12H16N2
